* Half wave Rectifier
V1 1 0 AC 10 1e6
* D1 1 2 10e-12 25e-3
Pd1p1 1 2 5e-12 25e-3 2
Pd1p2 1 2 1.666e-12 25e-3 3
Pd1p3 1 2 0.4166e-12 25e-3 4
Pd1p4 1 2 0.0833e-12 25e-3 5
R1 2 0 100
.end
